US07037905B2
2-(5-Chloro-2-methoxyphenyl)-[1,3,6,2]dioxazaborocane
The title compound (47%, crystals) was prepared from 5-chloro-2-methoxyphenylboronic acid and diethanolamin.

reactant | 5-chloro-2-methoxyphenylboronic acid | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-(5-Chloro-2-methoxyphenyl)-[1,3,6,2]dioxazaborocane | 47% | ClC=1C=CC(=C(C1)B1OCCNCCO1)OC | C11H15BClNO3
